US09388173B2
Step 1: 5-bromo-N,N-dimethylpyrimidin-2-amine
A mixture of 5-bromo-2-chloropyrimidine (1 g, 5.18 mmol), dimethylamine hydrochloride (1.26 g, 15.6 mmol) and K2CO3 (2.16 g, 15.6 mmol) in EtOH (15 mL) was heated to 120° C. for 16 h. After cooling, the solvent was evaporated off and the residue was used for next step without further purification. LCMS (m/z): 202.1/203.1 [M+H]+/[M+2H]+

reactant | 5-bromo-2-chloropyrimidine | 5.18 mmol, 1 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | dimethylamine hydrochloride | 15.6 mmol, 1.26 g | Cl.CNC
reactant | K2CO3 | 15.6 mmol, 2.16 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 5-bromo-N,N-dimethylpyrimidin-2-amine | BrC=1C=NC(=NC1)N(C)C | C6H8BrN3
